US08067590B2
4-Phenoxy-1-[2-(4-pyrrolidin-1-ylmethyl-phenyl)-ethyl]-1H-pyridin-2-one
To 100 mg (0.34 mmol) 4-hydroxy-1-[2-(4-pyrrolidin-1-ylmethyl-phenyl)-ethyl]-1H-pyridin-2-one (preparation 3) in 2.0 mL 1,4-dioxane is added 43 mg (0.39) potassium-tert-butylate and the mixture is stirred 30 min at RT. 77 μL (0.34 mmol) iodo-benzene and 21 mg (0.34 mmol) Cu-powder are added and the reaction mixture is stirred 5 h at 125° C. A few drops formic acid are added and after filtration the mixture is purified via HPLC chromatography (Zorbax stable bond, C18; water (0.15% formic acid)/acetonitrile 95:5 to 5:95)

reactant | 4-hydroxy-1-[2-(4-pyrrolidin-1-ylmethyl-phenyl)-ethyl]-1H-pyridin-2-one | 0.34 mmol, 100 mg | OC1=CC(N(C=C1)CCC1=CC=C(C=C1)CN1CCCC1)=O | C18H22N2O2
reactant | iodo-benzene | 0.34 mmol, 77 μL | IC1=CC=CC=C1 | C6H5I
solvent | 1,4-dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
catalyst | formic acid | A few drops | C(=O)O | CH2O2
product | 4-Phenoxy-1-[2-(4-pyrrolidin-1-ylmethyl-phenyl)-ethyl]-1H-pyridin-2-one | O(C1=CC=CC=C1)C1=CC(N(C=C1)CCC1=CC=C(C=C1)CN1CCCC1)=O | C24H26N2O2
